US09303007B2
Pd(Ph3P)4 (23.28 mg, 0.020 mmol) was added to a degassed solution of (1R,3S,5R)-tert-butyl 3-(6-(6-bromoquinoxalin-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (102 mg, 0.201 mmol), KOAc (49.4 mg, 0.504 mmol) and bis(pinacolato)diboron (113 mg, 0.443 mmol) in dioxane (2 mL) and the reaction was stirred at 83° C. for 16 h. The reaction mixture was partitioned between EtOAc (20 mL) and sat. NH4Cl(aq.) (5 mL). The organic layer was dried (MgSO4), filtered and concentrated to an orange oil, which was purified by prep HPLC (H2O-MeOH with 0.1% TFA buffer) to yield 2-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-benzo[d]imidazol-6-yl)quinoxalin-6-ylboronic acid (57 mg, 0.121 mmol, 60.0% yield) as orange solid. LC-MS retention time 1.94 min; m/z 472 [M+H]+. (Column PHENOMENEX® Luna 3.0×50 mm S10. Solvent A=90% water: 10% methanol: 0.1% TFA. Solvent B=10% water: 90% methanol: 0.1% TFA. Flow Rate=4 mL/min. Start % B=0. Final % B=100. Gradient Time=3 min. Wavelength=220).

reactant | (1R,3S,5R)-tert-butyl 3-(6-(6-bromoquinoxalin-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.201 mmol, 102 mg | BrC=1C=C2N=CC(=NC2=CC1)C=1C=CC2=C(NC(=N2)[C@H]2N([C@@H]3C[C@@H]3C2)C(=O)OC(C)(C)C)C1 | C25H24BrN5O2
reactant | KOAc | 0.504 mmol, 49.4 mg | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.443 mmol, 113 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.020 mmol, 23.28 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-benzo[d]imidazol-6-yl)quinoxalin-6-ylboronic acid | 0.121 mmol, 57 mg, 60.0% yield | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C1=NC2=C(N1)C=C(C=C2)C2=NC1=CC=C(C=C1N=C2)B(O)O | C25H26BN5O4
